US08835420B2
To a stirred mixture of 6-bromo-1-tosyl-1H-pyrrolo[3,2-b]pyridine 5-carbonitrile (2.46 g, 6.54 mmol), THF (6 mL) and MeOH (6 mL) was added 1N NaOH (3 mL). The reaction mixture was stirred for 30 minutes and then neutralized with 1N HCl and extracted with EtOAc (2×). The organic phase was dried over MgSO4 and concentrated in vacuo to give crude intermediate 6-bromo-1H-pyrrolo[3,2-b]pyridine 5-carbonitrile, which was subsequently dissolved in DMF (10 mL) and cooled to 0° C. Sodium hydride (60%, 314 mg, 7.85 mmol) was added, and the reaction mixture was stirred 30 minutes. Next, iodomethane (0.49 mL, 7.85 mmol) was added, and the reaction mixture was stirred for 30 minutes while warming to RT. The solution was subsequently diluted with EtOAc (100 mL), quenched and washed with brine. The aqueous layer was back-extracted with EtOAc (2×). The combined organic layers were dried over MgSO4, concentrated in vacuo, and purified by silica gel chromatography (2% MeOH/DCM) to give the title compound as a white solid (1.05 g, 68%). 1H NMR (500 MHz, CDCl3) δ ppm 7.90 (s, 1H), 7.43 (d, 1H, J=3.5 Hz), 6.76 (d, 1H, J=3.5 Hz), 3.85 (s, 3H); ESI-MS m/z [M+H]+ calc'd for C9H6BrN3, 236, 238; found 236, 238.

reactant | 6-bromo-1-tosyl-1H-pyrrolo[3,2-b]pyridine 5-carbonitrile | 6.54 mmol, 2.46 g | BrC=1C=C2C(=NC1C#N)C=CN2S(=O)(=O)C2=CC=C(C)C=C2 | C15H10BrN3O2S
reactant | THF | 6 mL | C1CCOC1 | C4H8O
reactant | NaOH | 1N, 3 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | MeOH | 6 mL | CO | CH4O
product | 6-bromo-1H-pyrrolo[3,2-b]pyridine 5-carbonitrile | BrC=1C=C2C(=NC1C#N)C=CN2 | C8H4BrN3
